Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
Found down, altered mental status, renal failure, sepsis
 
Major Surgical or Invasive Procedure:
-Intubation
-Removal of R subclavian artery CVL in cath lab, with stent 
deployment
-Femoral CVL
-R IJ CVL
-Arterial line
 
History of Present Illness:
___ yo M with a history of EtOH abuse was found down in his home. 
 He had not been seen by his neighbors for 3 days prior to being 
found, was reportedly found with many empty alcohol containers 
around him.  The patient was taken to ___, where he 
was intubated for airway protection due to GCS = 3, no sedation 
was given but did have spontaneous respirations to 20.  Pt was 
noted to be incontinent of bloody diarrhea.  Head CT and C-spine 
CT negative. Labs remarkable for Ph 7.03, bicarb 6, cr 5, gluc 
111, K 4.1, CK 10,000.  EtOH 403, NGT placed with coffee ground 
material. UTox negative. R SC CVL placed, given 1L fluid and 
shipped via Medflight. Also given Narcan 1mg IV, Thiamine IV and 
started on Levophed.
.
Upon arrival to ___ ED, VS T 96, 96, 65/p --> 138/66, 
ventilated with 100% SaO2. Negative guaiac, soft abdomen.  CVL 
subclavian line from OSH noted to be in the R SC artery, 
vascular consulted and recommended leaving in place until 
patient was stable for removal in the controlled setting of the 
cath lab. A L femoral CVl was placed in the ED. he received 
Levophed, Protonix IV, IV NS x 4L, Zosyn 4.5mg IV, Levofloxacin 
750mg IV and Versed 2mg x 1.  VS upon transfer 99/49, 100/ PEEP 
5/FIO2 100 and RR 20.  Admitted with PNA, Rhabdomyolysis, 
encephalopathy, AG metabolic acidosis, guaiac positive from 
above, ARF, elevated liver enzymes.  
 
Past Medical History:
Alcoholism 
Seizure disorder
Hyperlipidemia
Bipolar disorder
Disasotic dysfunction, Ef = 55%
H/o AMS ___ seizure
H/o tubulous adenoma and colon polyps
? AVR malformation

 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission - 
97.4, 97, 92/59, 20 and 100% on 100% FIO2
GEN: obtunded, unkempt
HEENT: PER minimally reactive but symmetric; no corneal reflex 
on initial exam; face symmetric, ET in place
CV: RRR without ___ harsh systolic murmur throughout precordium
PULM: Course b/l breath sounds with intermittent wheeze
ABD: Soft, nondistended, without HSM, active bowel sounds, no 
grimace to deep palpation
Ext: WWP with c/c/e, pulses distally ___
Neuro: Initially with no corneal reflex, minimal gag, no 
withdrawl to pain; then spontaneously moving all limbs
.
On Disharge - 

 
Pertinent Results:
=====
labs
=====

___ 03:10AM BLOOD WBC-10.1 RBC-3.15* Hgb-9.3* Hct-28.6* 
MCV-91 MCH-29.6 MCHC-32.6 RDW-14.1 Plt ___
___ 04:07AM BLOOD WBC-13.7* RBC-3.34* Hgb-10.1* Hct-30.2* 
MCV-91 MCH-30.2 MCHC-33.4 RDW-14.1 Plt ___
___ 05:59PM BLOOD Hct-27.1*
___ 10:47AM BLOOD WBC-10.3 RBC-2.96* Hgb-9.1* Hct-26.4* 
MCV-89 MCH-30.7 MCHC-34.5 RDW-13.7 Plt ___
___ 02:31AM BLOOD WBC-7.8 RBC-2.84* Hgb-8.6* Hct-25.6* 
MCV-90 MCH-30.3 MCHC-33.7 RDW-14.0 Plt Ct-95*
___ 06:04PM BLOOD Hct-20.5*#
___ 10:35AM BLOOD Hct-29.1*
___ 04:04AM BLOOD WBC-6.2 RBC-3.26* Hgb-9.9* Hct-28.5* 
MCV-87 MCH-30.5 MCHC-34.9 RDW-13.8 Plt ___
___ 09:20PM BLOOD WBC-7.6 RBC-3.18* Hgb-9.6* Hct-27.7* 
MCV-87 MCH-30.2 MCHC-34.7 RDW-13.9 Plt ___
___ 07:29PM BLOOD Hct-30.8*
___ 06:54PM BLOOD WBC-6.4# RBC-3.70* Hgb-11.4* Hct-31.8* 
MCV-86 MCH-30.9 MCHC-36.0* RDW-13.8 Plt ___
___ 11:14AM BLOOD Hct-36.2*
___ 09:02AM BLOOD WBC-2.5* RBC-3.22* Hgb-10.0* Hct-29.4* 
MCV-92 MCH-31.2 MCHC-34.0 RDW-13.5 Plt ___
___ 08:28AM BLOOD WBC-2.8*# RBC-3.13*# Hgb-10.0*# 
Hct-28.6*# MCV-92 MCH-31.8 MCHC-34.8 RDW-13.5 Plt ___
___ 10:00PM BLOOD WBC-17.1* RBC-4.81 Hgb-14.6 Hct-43.8 
MCV-91 MCH-30.4 MCHC-33.4 RDW-13.8 Plt ___
___ 04:04AM BLOOD Neuts-68 Bands-11* Lymphs-14* Monos-5 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0
___ 06:54PM BLOOD Neuts-81.3* Lymphs-13.5* Monos-4.4 
Eos-0.6 Baso-0.1
___ 10:00PM BLOOD Neuts-86.4* Lymphs-8.8* Monos-4.0 Eos-0.5 
Baso-0.2
___ 04:04AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 03:10AM BLOOD Plt ___
___ 03:10AM BLOOD ___ PTT-29.0 ___
___ 04:07AM BLOOD Plt ___
___ 04:07AM BLOOD ___ PTT-28.8 ___
___ 10:47AM BLOOD Plt ___
___ 10:47AM BLOOD ___ PTT-29.0 ___
___ 02:31AM BLOOD ___ PTT-30.8 ___
___ 04:04AM BLOOD Plt Smr-VERY LOW Plt ___
___ 04:04AM BLOOD ___ PTT-30.7 ___
___ 09:20PM BLOOD Plt ___
___ 09:20PM BLOOD ___ PTT-30.8 ___
___ 06:54PM BLOOD ___ PTT-30.2 ___
___ 09:02AM BLOOD Plt ___
___ 08:28AM BLOOD Plt ___
___ 03:02AM BLOOD ___ PTT-38.7* ___
___ 10:47AM BLOOD ___
___ 04:04AM BLOOD ___
___ 03:10AM BLOOD Glucose-PND UreaN-PND Creat-PND Na-PND 
K-PND Cl-PND HCO3-PND
___ 07:58PM BLOOD Glucose-137* UreaN-64* Creat-4.2* Na-151* 
K-3.3 Cl-115* HCO3-25 AnGap-14
___ 04:04AM BLOOD Glucose-113* UreaN-74* Creat-3.8* Na-148* 
K-3.6 Cl-110* HCO3-25 AnGap-17
___ 09:20PM BLOOD Glucose-226* UreaN-78* Creat-3.9* Na-143 
K-3.4 Cl-105 HCO3-28 AnGap-13
___ 12:45PM BLOOD Glucose-485* UreaN-86* Creat-4.1* Na-142 
K-2.6* Cl-94* HCO3-22 AnGap-29*
___ 08:07AM BLOOD Glucose-652*
___ 03:02AM BLOOD Glucose-288* UreaN-96* Creat-4.4* Na-146* 
K-4.1 Cl-109* HCO3-10* AnGap-31*
___ 10:00PM BLOOD Glucose-116* UreaN-111* Creat-5.4* Na-144 
K-5.1 Cl-105 HCO3-5* AnGap-39*
___ 03:10AM BLOOD ALT-PND AST-PND CK(CPK)-PND AlkPhos-PND 
TotBili-PND
___ 02:31AM BLOOD CK(CPK)-5781*
___ 06:54PM BLOOD ALT-248* AST-546* ___ 
AlkPhos-67 TotBili-0.3
___ 03:02AM BLOOD ALT-291* AST-775* ___ 
AlkPhos-81 Amylase-383*
___ 10:00PM BLOOD ALT-301* AST-643* ___ 
AlkPhos-108 TotBili-0.2
___ 10:00PM BLOOD Lipase-257*
___ 02:31AM BLOOD CK-MB-41* MB Indx-0.7 cTropnT-0.22*
___ 04:04AM BLOOD CK-MB-111* MB Indx-0.7 cTropnT-0.43*
___ 10:00PM BLOOD cTropnT-0.06*
___ 07:58PM BLOOD Calcium-7.8* Phos-4.2 Mg-1.9
___ 04:07AM BLOOD Calcium-8.1* Phos-4.8* Mg-2.1
___ 02:31AM BLOOD Calcium-7.2* Phos-5.3* Mg-1.7
___ 04:04AM BLOOD Albumin-1.7* Calcium-6.0* Phos-4.9* 
Mg-2.3
___ 09:20PM BLOOD Calcium-6.1* Phos-4.4 Mg-1.5*
___ 06:54PM BLOOD Albumin-2.2* Calcium-6.8* Phos-4.4 Mg-1.7
___ 12:45PM BLOOD Calcium-6.1* Phos-4.3# Mg-1.6
___ 10:00PM BLOOD Osmolal-425*
___ 02:39PM BLOOD Cortsol-96.9*
___ 12:52PM BLOOD Cortsol-75.9*
___ 10:48AM BLOOD Genta-1.1* Vanco-17.6
___ 06:31AM BLOOD Vanco-10.2
___ 04:04AM BLOOD Genta-2.6*
___ 10:00PM BLOOD ASA-NEG ___ Carbamz-<1.0* 
Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:20AM BLOOD ___ pH-7.42 Comment-GREEN TUBE
___ 04:21AM BLOOD Type-ART Temp-36.1 pO2-72* pCO2-33* 
pH-7.48* calTCO2-25 Base XS-1 Intubat-NOT INTUBA
___ 09:17AM BLOOD Type-ART Temp-35.6 Rates-/18 Tidal V-450 
PEEP-5 FiO2-40 pO2-94 pCO2-36 pH-7.47* calTCO2-27 Base XS-2 
Intubat-INTUBATED
___ 02:36AM BLOOD Type-ART Temp-35.9 pO2-121* pCO2-32* 
pH-7.46* calTCO2-23 Base XS-0 Intubat-INTUBATED
___ 07:49PM BLOOD Type-ART Temp-35.9 pO2-96 pCO2-36 pH-7.44 
calTCO2-25 Base XS-0 Intubat-INTUBATED
___ 04:31AM BLOOD Type-ART Temp-35.9 pO2-104 pCO2-35 
pH-7.46* calTCO2-26 Base XS-1
___ 09:01PM BLOOD Type-ART pO2-119* pCO2-34* pH-7.54* 
calTCO2-30 Base XS-7
___ 05:45PM BLOOD pH-7.52*
___ 11:26AM BLOOD ___
___ 02:00AM BLOOD Type-ART PEEP-5 FiO2-100 pO2-419* 
pCO2-29* pH-7.12* calTCO2-10* Base XS--19 AADO2-290 REQ O2-53 
Intubat-INTUBATED Vent-CONTROLLED
___ 10:17PM BLOOD pO2-428* pCO2-24* pH-7.10* calTCO2-8* 
Base XS--20
___ 04:31AM BLOOD Glucose-114* Lactate-1.4 K-3.3*
___ 09:01PM BLOOD Lactate-2.8* K-3.6
___ 05:45PM BLOOD Lactate-5.4* K-2.7*
___ 04:12PM BLOOD Lactate-7.8*
.
============
microbiology
============
Blood culture ___
SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             SALMONELLA ENTERITIDIS
                             |          STAPHYLOCOCCUS, 
COAGULASE NEGATIVE
                             |          |   
AMPICILLIN------------   <=2 S
CEFTRIAXONE-----------   <=1 S
ERYTHROMYCIN----------              =>8 R
GENTAMICIN------------                2 S
LEVOFLOXACIN----------<=0.25 S   <=0.12 S
OXACILLIN-------------              =>4 R
RIFAMPIN--------------            <=0.5 S
TETRACYCLINE----------             =>16 R
TRIMETHOPRIM/SULFA----  <=20 S
VANCOMYCIN------------              <=1 S

.
FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      REPORTED BY PHONE TO ___ @ 0546 ON ___- 
CC6C. 
      CLOSTRIDIUM DIFFICILE. 
         FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.

.
==========
Cardiology
==========
TTE 
The left atrium is dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
unusually small. Left ventricular systolic function is 
hyperdynamic (EF>75%). There is a severe resting left 
ventricular outflow tract obstruction. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is systolic anterior motion of the 
mitral valve leaflets. Mild (1+) mitral regurgitation is seen. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

IMPRESSION: Small left ventricle with hyperdynamic systolic 
function. There is systolic anterior movement of the mitral 
valve with a severe LVOT gradient, due to apposition of the 
valve leaflet to the septum at end systole. Mild mitral 
regurgitation.

Compared with the prior study (images reviewed) of ___, 
the measured LVOT gradient is similar to prior study (not 
reported on prior). The other findings are similar.  
.
===========
Radiology
===========
CT Head 
IMPRESSION: 
1. Gyriform high density focus at left frontovertex, without 
associated 
edema, mass effect, or gyral effacement, likely a chronic 
finding. This could likely represents mineralization, related to 
old trauma or infarct. 
2. Air-fluid levels in the left maxillary and frontal sinuses 
and sphenoid 
air cells, bilaterally, with mild mucosal thickening in the 
ethmoid air cells,representing acute-on-chronic inflammation. No 
associated fracture. 
.
CT Torso 
IMPRESSION: 
1. Bibasilar dependent consolidation with peripheral 
___ 
opacities worrisome for infection or aspiration. 
2. Marked enlargement of the left chest wall musculature and 
right gluteal 
muscles. The muscles are overall lower in attenuation, 
suggesting edema. 
3. Pancolitis, most proiminent of the sigmoid colon. 
4. Irregular contour of the kidneys. Exophytic right renal mass, 
most c/w 
heamorrhagic cyst. Recommend US evaluation.. 
5. Intra-arterial right chest vascular line as noted on prior 
chest 
radiograph. 
.
Scrotal ultrasound
IMPRESSION: 
1. Severe scrotal edema, with no evidence of fluid collection or 
abscess. 
2. Normal testes with small hydroceles bilaterally. 
.

RIGHT UPPER QUADRANT ULTRASOUND:
The liver is again coarsened in echotexture. The portal vein is 
patent with antegrade flow. There is no ascites. There is no 
intra- or extra-hepatic bile duct dilation. The common duct 
measures 3 mm. No gallstones or wall thickening. 
IMPRESSION: No evidence of biliary ductal dilatation. 
.
MRCP
1. Trace fluid around the pancreas compatible with acute 
pancreatitis. No 
evidence of fluid collection or biliary ductal dilatation. 
2. Small bilateral pleural effusions and trace ascites are 
increased from the ___ study. 
4. Indeterminate lesion in the mid right kidney which has 
evidence of 
hemorrhagic components. This mass is concerning for malignancy. 
Further 
evaluation is recommended. 
.
___
IMPRESSION: Normal deep veins in the right leg. Noncompressible 
left common femoral vein is most likely due to edema. 

 
Brief Hospital Course:
# s/p Sepsis secondary to Salmonella/Coag Neg Staph:  Resolved.  
The patient was admitted to the MICU intubated in septic shock, 
rhabdo, metabolic acidosis, ARF, and aspiration PNA, and was 
resuscitated with IVF and pressors. He received broad spectrum 
antibiotics, initially with Vancomycin and Zosyn.  A CT scan 
revealed pancolitis, and Surgery was consulted and recommended 
conservative management.  Patient's blood cx grew out coag neg 
staph and salmonella; group B strep was cultured from the 
sputum.  Antibiotics were tailored to CTX/Vanco/Flagyl. When he 
stabilized off pressors, the CVL which was placed at ___ 
___ in the R subclavian artery was removed with angio 
guidance by Vascular Surgery; a stent was deployed due to 
ongoing extravasation.  The patient was weaned to minimal vent 
settings and extubated successfully on HD 5.  Patient was 
transferred to the floor and treated with a 10 day course of 
Vancomycin and Ceftriaxone (later switched to cefepime - 
described below), which was shorter duration than the total 14 
days anticipated because of patient's pancreatitis, 
hepatotoxicity, and rash (acute generalized exanthematous 
pustulosis).  Patient had fluctuating WBC count during his stay 
(likely reactive), but surveillance cultures remained negative, 
and was afebrile and hemodynamically stable.  

#. Transaminitis/Cholestasis/Pancreatitis:  Patient was septic 
on admission and required pressors.  On admission, patient had a 
transaminitis consistent with shock liver that improved during 
the course of his admission.  Patient had been improving during 
hospitalization, but was noted to have an elevated WBC count 
(18) on ___.  Patient had been afebrile, hemodynamically 
stable, but there was concern for possible intra-abdominal 
abcess vs worsening colitis (noted on admission) that raised 
suspicion for occult infectious process.  On ___, patient was 
noted to have elevated amylase/lipase, elevated direct bilirubin 
and Alk phos, and was noted to be somnolent.  Given the 
multiorgan system involvement, there was concern for possible 
drug toxicity.  Patient had a Valproate level and Carbamazepine 
level checked as the doses of these medication had been 
increased on ___ to his home doses.  These medications were 
taped off over several days.  CT abdomen, MRCP, RUQ u/s were 
performed and were unremarkable as to the etiology of the 
patient's hepatic and pancreatic involement -- no evidence of 
ductal dilation or gallstones.  Patient's cholestatic markers 
continued to trend upward over several days and so hepatology 
was consulted.  Hepatology attributed patient's cholestatic 
pattern to Zosyn that he received in the MICU earlier in his 
course.  Patient's cholestatic markers have stabilized and 
amylase,lipase were no longer trended when patient improved 
clinically. 
.
#. C difficile Colitis: Patient developed C diff colitis on ___ 
with a fever, increased white count, and tachycardia. Patient 
was transiently re-admitted to the MICU where he received 
fluids, and was started on flagyl and vancomycin. Vancomycin was 
stopped (see below) and patient continued on Flagyl for planned 
21 day course.  
.
# Acute Generalized Exanthematous Pustulosis:  On ___ patient 
was noted to have an erythematous rash involving his inguinal 
region that was initially thought to be a candidal cellulitis.  
On the following days, was noted to be spreading, and was noted 
to be involving patient's trunk and back.  Dermatology was 
consulted and diagnosed this rash as acute generalized 
exanthematous pustulosis, attributed to use of B lactam 
antibiotics in the past.  Patient was treated with emollient and 
triamcinalone cream. Vancomycin oral was started in the setting 
of C diff and patient broke out in a new rash, so this was 
stopped. Rash was not nearly as severe as prior AGEP and 
resolved within 3 days.   
.
#Acute on Chronic Renal Failure:  Patient was admitted with a Cr 
of 5, thought to be related to patient's septic shock.  
Patient's Cr had trended downward to 1.5 during the admission, 
likely secondary to ATN. Per his PCP, baseline ___ is around 1.4. 
Additionally, patient reports known history if diabetes 
insipidus due to prior Lithium use. 
.
# Pancolitis:  Unclear etiology.  Patient was in septic shock 
when he was initially admitted and was noted to have pancolitis 
on CT scan on admission.  It was thought that patient may have 
developed this from hypotension, but unclear.  Of note, patient 
was noted to have salmonella in his blood cultures.  Patient was 
followed by general surgery who recommended conservative 
management.  A repeat CT Abd/Pelvis shows interval improvement 
in colonic wall.  Patient's PCP was contacted and faxed 
colonoscopy records dating ___ years ago that showed normal 
colon then.  
.  
#History seizure disorder:  Patient has a history of seizure 
disorder and has been on carbamazepine and valproic acid at 
home.  On admission, patient's home doses of these medications 
was unclear and was started on low doses of each.  Patient's 
pharmacy was contacted.  His home dose (as of ___) was 
Carbamazepine 400/600, and Valproic Acid ___.  Patient 
was started on this medication on ___.  Patient was noted to 
have hepatotoxicity/pancreatitis on ___, but it is unclear if 
these medications are related to his state.  Patient had been 
previously on these doses as an outpatient and had been 
refilling regularly.  Neurology was consulted to help taper 
these medications.  He was taped off over several days and was 
started on Keppra for seizure prophylaxis. He had a therapeutic 
Keppra level prior to discharge.  
.
# Bipolar disorder: Transitioned to risperidone in house and 
patient did well on this regimen. Psychiatry was involved and 
felt that patient should have neuro-psych evaluation after acute 
medical issues resolved, but felt that Bipolar was likely at 
baseline at the time of discharge. 
.
#. Hypothyroid: Thyroid studies checked in the setting of 
hypothermia and diarrhea. TSH 16, but free T4 normal at 1.2 
likely indicating sick euthryoid in the setting of patient's 
multiple other medical problems. Plan to retest TSH as 
outpatient after acute issues resolve by PCP.
.
# RCC: Mass noted on MRI abdomen in house. It appears patient 
has known ___ based on prior records from ___ and is s/p RFA 
___. Plan for patient to follow up with Dr. ___ at 
___ with plan for Q3 month CT scans for first year.

# Contact: Brother ___. Cousin ___ 
___. Regarding HCP, patient has indicated that Cousin 
___ should be his HCP, however Cousin has refused. Patient's 
brother is willing to be HCP, but patient is refusing. For now, 
if there are any issues, will have to use next of kin ___ 
___ for consent. Will need to readdress with patient. 

 
Medications on Admission:
Medications confirmed from pharmacy ___ ___
Carbamazipine 400mg qam 1200mg qhs (last filled ___
Depakote 250mg qhs (last filled ___
Simvastatin 40mg qhs
Timolol 5% opth soln to left eye prn

of note, in ___ the patient was taking Depakote 500mg qam
500mg q afternoon and 2000mg qhs

Psych meds are being prescribed by ___ from ___
___

Other meds rx by Dr. ___ ___
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. White Petrolatum-Mineral Oil     Cream Sig: One (1) Appl 
Topical DAILY (Daily).  
3. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day) for 2 days: through ___.  
4. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
5. Risperidone 1 mg Tablet Sig: Two (2) Tablet PO QPM (once a 
day (in the evening)).  
6. Risperidone 1 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
7. Levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) Please stop ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Septic shock
2. Rhabdomylosis
3. Acute Renal Failure
4. Respiratory failure
5. Salmonella septicemia
6. Clostridium difficile colitis 
 
Discharge Condition:
stable, afebrile 

 
Discharge Instructions:
You were initially admitted with septic shock from ___ 
___. You were found to have a very serious blood infection, 
likely originating from your colon. You were treated with 
antibiotics which caused hepatitis and pancreatitis that 
resolved on their own. These antibiotics also caused a severe 
skin rash that improved on its own. You subsequently developed 
another infection of your colon called clostridium difficile 
colitis, and were treated with different antibiotics which would 
will need to continue. Finally, your depakote was thought to 
have caused some of your liver problems, so it was stopped and 
you were started on Risperdal and Keppra instead for your 
bipolar disorder and seizures respectively. 
.
You are being discharged to a rehab facility to help you regain 
your strength. 
.
Please seek immediate medical attention if you experience chest 
pain, shortness of breath, abdominal pain, nauasea, vomitting, 
fevers, chills, worsening diarrhea or any change from your 
baseline health status. 
 
Followup Instructions:
___